US04395406
1-Ethoxycarbonylmethyl-5-fluoropyrimid-2-one
Prepared as above from 5-fluoropyrimid-2-one in 31% yield, m.p. 121° (ethyl acetate). (Found: C, 47.90; H, 4.70. Calc. for C8H9FN2O3 : C, 48.02; H, 4.53).

reactant | 5-fluoropyrimid-2-one | FC=1C=NC(NC1)=O | C4H3FN2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Ethoxycarbonylmethyl-5-fluoropyrimid-2-one | 31% yield | C(C)OC(=O)CN1C(N=CC(=C1)F)=O | C8H9FN2O3
